US06509328B1
3-(4-Oxo-7-pyridin-3-yl-4,5-dihydro-3H-benzo [b][1,4]diazepin-2-yl)-benzonitrile
Prepared from (2-amino-4-pyridin-3-yl-phenyl)-carbamic acid tert.-butyl ester (Example G26) and 3-(2,2-dimethyl-6-oxo-6H-[1,3]dioxin-4-yl)-benzonitrile (Example J4) according to the general procedure K. The obtained material was deprotected and cyclized by treatment with TFA in CH2Cl2 according to the general procedure M. Obtained as a beige powder (161 mg).

reactant | (2-amino-4-pyridin-3-yl-phenyl)-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C=1C=NC=CC1)N)=O | C16H19N3O2
reactant | 3-(2,2-dimethyl-6-oxo-6H-[1,3]dioxin-4-yl)-benzonitrile | CC1(OC(C=C(O1)C=1C=C(C#N)C=CC1)=O)C | C13H11NO3
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3-(4-Oxo-7-pyridin-3-yl-4,5-dihydro-3H-benzo [b][1,4]diazepin-2-yl)-benzonitrile | 161 mg | O=C1NC2=C(N=C(C1)C=1C=C(C#N)C=CC1)C=CC(=C2)C=2C=NC=CC2 | C21H14N4O
